US05869516
Yield: 1.5 g of N-(4-(4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)phenyl)acetamide (65% of theory), oil obtained analogously from 2-(4-aminophenyl)-5-methyl-2,4-dihydro-3-pyrazolone and trifluoroacetic anhydride is N-(4-(4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-phenyl)trifluoroacetamide from 2-(3-aminophenyl)-5-methyl-2,4-dihydro-3-pyrazolone and trifluoroacetic anhydride is N-(3-(4,5-dihydro-3-methy-5-oxo-1H-pyrazol-1-yl)-phenyl)trifluoroacetamide from 2-(3-aminophenyl)-5-methyl-2,4-dihydro-3-pyrazolone and acetic anhydride is N-(3-(4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)-phenyl)acetamide from 5-methyl-2-(4-aminophenyl)-2,4-dihydro-3-pyrazolone (prepared in analogy to Example 10) and acetic anhydride is N-(4-(4,5-dihydro-3-methyl-5-oxo-5H-pyrazol-1-yl)-phenyl)acetamide and by reaction with 2-ethylaniline N-(4-(4-(2-ethylanilinomethylene)-4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)phenyl)acetamide, m.p.: 230° C.

reactant | 2-(4-aminophenyl)-5-methyl-2,4-dihydro-3-pyrazolone | NC1=CC=C(C=C1)N1N=C(CC1=O)C | C10H11N3O
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | N-(4-(4,5-dihydro-3-methyl-5-oxo-1H-pyrazol-1-yl)phenyl)acetamide | Yield: 1.5 g, 65% | CC1=NN(C(C1)=O)C1=CC=C(C=C1)NC(C)=O | C12H13N3O2
